US06605629B1
A mixture of ethyl 4-[4-(5-chloro-2-thienyl)-2-oxo-4-oxazolin-5-yl]butanoate (12.5 g), phosphorus oxychloride (24.5 g) and pyridine (3.16 g) was heated to 120-130° C. and stirred for 45 minutes. There action mixture was poured into ice-water (200 ml) and extracted with ethyl acetate (150 ml×2). The organic layer was washed in sequence with a 10% aqueous solution of sodium hydrogen carbonate (100 ml) and a saturated aqueous solution of sodium chloride (100 ml) and dried over anhydrous magnesium sulfate. The organic layer was concentrated, the residue was subjected to silica gel column chromatography, and ethyl 2-chloro-4-(5-chloro-2-thienyl)-5-oxazolebutanoate was obtained as a yellow oil (5.79 g, 48%) from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | ethyl 4-[4-(5-chloro-2-thienyl)-2-oxo-4-oxazolin-5-yl]butanoate | 12.5 g | ClC1=CC=C(S1)C=1NC(OC1CCCC(=O)OCC)=O | C13H14ClNO4S
reactant | phosphorus oxychloride | 24.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 3.16 g | N1=CC=CC=C1 | C5H5N
product | ethyl 2-chloro-4-(5-chloro-2-thienyl)-5-oxazolebutanoate | ClC=1OC(=C(N1)C=1SC(=CC1)Cl)CCCC(=O)OCC | C13H13Cl2NO3S
